US04800201
Preparation of 2-(2-furyl)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
Silica gel (Wakogel C-200, 0.03 g) was added as catalyst to a solution of 2-(3-chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one (0.79 g) and furan (0.30 g) in acetonitrile (30 ml) and the mixture was stirred at 50° C. for 35 hours. The mixture was chromatographed on silica gel (Wakogel C-200) column, using acetonitrile as an eluant. The residue was recrystallized from acetonitrile to give the titled compound (0.23 g, yield 37.7%) as pale orange crystals.

reactant | 2-(3-chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.79 g | ClC=1C=C(C(=O)OC2SC(=C(NC2=O)C)C2=CC=NC=C2)C=CC1 | C17H13ClN2O3S
reactant | furan | 0.30 g | O1C=CC=C1 | C4H4O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-(2-furyl)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.23 g, yield 37.7% | O1C(=CC=C1)C1SC(=C(NC1=O)C)C1=CC=NC=C1 | C14H12N2O2S
